US05387409
A solution of (R)-4-nitrobenzilic acid (2.0 g, 7.33 mmol) in ethanol (25 ml) was treated with hydrazine (1.0 ml) and Raney-Ni (0.8 g) and stirred at room temperature for 18 hours under a nitrogen atmosphere. The Raney-Ni powder was removed by filtration, washed with ethanol, the ethanol layer concentrated to a small volume and diluted with water (75 ml). The aqueous layer was extracted with ether (2×50 ml) and the aqueous layer was evaporated under vacuum to provide a light yellow solid of (R)-4-aminobenzilic acid in 82% yield (1.46 g); mp 139°-140° C. (decomp); TLC [silica gel, acetone] Rf 0.20; 1NMR (D2O) δ6.75 and 7.18 (2d, 4H, C6H4) and 7.31 (s, 5H, C6H5).

reactant | (R)-4-nitrobenzilic acid | 7.33 mmol, 2.0 g | [N+](=O)([O-])C1=CC=C([C@](C(=O)O)(O)C2=CC=CC=C2)C=C1 | C14H11NO5
reactant | hydrazine | 1.0 ml | NN | H4N2
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | Ni | 0.8 g | [Ni] | Ni
product | (R)-4-aminobenzilic acid | 82% yield | NC1=CC=C([C@](C(=O)O)(O)C2=CC=CC=C2)C=C1 | C14H13NO3
